US08937055B2
D) 4-(4-methoxyphenyl)pyrimidine-5-carbaldehyde
A mixture of [4-(4-methoxyphenyl)pyrimidin-5-yl]methanol (8.6 g), manganese dioxide (48 g) and tetrahydrofuran (300 mL) was stirred overnight at room temperature. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (5.32 g).

reactant | [4-(4-methoxyphenyl)pyrimidin-5-yl]methanol | 8.6 g | COC1=CC=C(C=C1)C1=NC=NC=C1CO | C12H12N2O2
catalyst | manganese dioxide | 48 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-(4-methoxyphenyl)pyrimidine-5-carbaldehyde | 5.32 g | COC1=CC=C(C=C1)C1=NC=NC=C1C=O | C12H10N2O2
